US04971966
9-Chloro-11-[[2-[(diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
5.6 g (0.0174 mole) of 9-chloro-11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one were suspended in 100 ml of anhydrous dioxane and, after addition of 6.0 g (0.035 mol) of 2-[(diethylamino)methyl]piperidine, the mixture was boiled under reflux for 12 hours.

reactant | 9-chloro-11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.0174 mole, 5.6 g | ClC1=CC2=C(C(NC3=C(N2C(CCl)=O)N=CC=C3)=O)C=C1 | C14H9Cl2N3O2
reactant | 2-[(diethylamino)methyl]piperidine | 0.035 mol, 6.0 g | C(C)N(CC)CC1NCCCC1 | C10H22N2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 9-Chloro-11-[[2-[(diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(CN2C(CCCC2)CN(CC)CC)=O)N=CC=C3)=O)C=C1 | C24H30ClN5O2
